US09315490B2
a) Methyl 1-(5-(3-methoxyphenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate
Tetrakis(triphenylphosphine)palladium(0) (0.23 g, 0.20 mmol) and a 2M solution of sodium carbonate (8 mL) were added at room temperature and under an argon atmosphere to methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate (3.0 g, 7.96 mmol) in DME (50 mL). The addition of 3-methoxy phenyl boronic acid (1.53 g, 9.94 mmol) and ethanol (50 mL) followed 10 min later, and the resulting mixture was heated at 90° C. for 5 h. The reaction mixture was then cooled to room temperature and filtered through a pad of celite. The filtrate was concentrated and the residue was purified by flash column chromatography [silica; ethyl acetate/hexane=3:7]. Yellow solid. Yield: 2.6 g (80% of theory)

reactant | sodium carbonate | 8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | 7.96 mmol, 3.0 g | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C15H12BrN3O2S
reactant | 3-methoxy phenyl boronic acid | 9.94 mmol, 1.53 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | DME | 50 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.20 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 1-(5-(3-methoxyphenyl)pyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | COC=1C=C(C=CC1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C22H19N3O3S
